US04085272
Preparation of ethyl-m-trifluoromethylphenoxy-acetate
A mixture of 100 g (0.618 mole) of α,α,α-trifluoro-m-cresol, 106 g (0.632 mole) of ethyl bromoacetate, 87.5 g (0.632 mole) of potassium carbonate, and 1500 ml of acetone is stirred at reflux for 4 hours, and at room temperature for 18 hours. The mixture is filtered, evaporated under vacuum on a rotorary evaporator at 45° C and at 85° C (0.1 mm) to remove excess ethyl bromoacetate. The reaction mixture is taken up in 500 ml of ether, washed three times with 100 ml each of 0.1M potassium carbonate, once with 100 ml of water, 100 ml of 0.01M hydrochloric acid, and 100 ml of water. It is then dried with magnesium sulfate, filtered and evaporated, giving 142 g of the crude product. This is fractionally distilled at 73°-75° C (0.1 mm) to give 124 g of the purified subject product as a colorless liquid.

reactant | α,α,α-trifluoro-m-cresol | 0.618 mole, 100 g | FC(C1=CC(=CC=C1)O)(F)F | C7H5F3O
reactant | ethyl bromoacetate | 0.632 mole, 106 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.632 mole, 87.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1500 ml | CC(=O)C | C3H6O
product | ethyl-m-trifluoromethylphenoxy-acetate | 124 g | C(C)OC(COC1=CC(=CC=C1)C(F)(F)F)=O | C11H11F3O3
